US09388166B2
A solution of (3-nitro-4-trimethylsilanylmethyl-phenyl)-carbamic acid tert-butyl ester (1.00 g, 3.08 mmol) and 2-chloro-6-methoxybenzaldehyde (526 mg, 3.08 mmol) in THF (10 mL) was added tetra-butylammonium fluoride (121 mg, 462 μmol) at 25° C., the color of the solution changed to dark blue after the addition. The reaction mixture was stirred at 25° C. for 30 min and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded {4-[2-(2-chloro-6-methoxy-phenyl)-2-hydroxy-ethyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester (0.45 g, 35%) as an oil.

reactant | (3-nitro-4-trimethylsilanylmethyl-phenyl)-carbamic acid tert-butyl ester | 3.08 mmol, 1.00 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C[Si](C)(C)C)[N+](=O)[O-])=O | C15H24N2O4Si
reactant | 2-chloro-6-methoxybenzaldehyde | 3.08 mmol, 526 mg | ClC1=C(C=O)C(=CC=C1)OC | C8H7ClO2
reactant | tetra-butylammonium fluoride | 462 μmol, 121 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {4-[2-(2-chloro-6-methoxy-phenyl)-2-hydroxy-ethyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester | 0.45 g, 35% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)CC(O)C1=C(C=CC=C1OC)Cl)[N+](=O)[O-])=O | C20H23ClN2O6
